US09233982B2
Step 3: 6-(methoxymethyl)benzo[b]thiophen-4(7H)-one
Sodium hydride (60% dispersion in mineral oil, 0.2 g, 5 mmol), was washed with hexane and then suspended in THF (6 mL) under a nitrogen atmosphere at 0° C. 6-(Hydroxymethyl)-6,7-dihydrobenzo[b]thiophen-4(5H)-one (0.745 g, 4.1 mmol) was dissolved in THF (4 mL) and added drop-wise to the sodium hydride suspension. After 10 min methyl iodide (0.71 g, 0.31 mL, 5 mmol) was added and the reaction mixture was warmed to room temperature and stirred for 3 hr. Water and saturated brine solution (2 mL, 1:1) were added and the product was extracted into dichloromethane (×3). The organic layers were combined, dried (MgSO4) and concentrated in vacuo. The crude residue was purified on silica gel using a gradient elution of 0-50% ethyl acetate in iso-hexane to afford the title compound (0.109 g, 34%).

reactant | Sodium hydride | 5 mmol, 0.2 g | [H-].[Na+]
reactant | 6-(Hydroxymethyl)-6,7-dihydrobenzo[b]thiophen-4(5H)-one | 4.1 mmol, 0.745 g | OCC1CC(C2=C(SC=C2)C1)=O | C9H10O2S
reactant | methyl iodide | 5 mmol, 0.31 mL, 0.71 g | CI | CH3I
reactant | Water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | brine | 2 mL | [Cl-].[Na+].O
product | 6-(methoxymethyl)benzo[b]thiophen-4(7H)-one | 0.109 g, 34% | COCC1=CC(C2=C(SC=C2)C1)=O | C10H10O2S
